US09340538B2
4-((6-(2-bromo-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid
Methyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.22 g, 2.5 mmol) was reacted with morpholine-2-carboxylic acid hydrochloride (0.5 g, 3 mmol) according to the procedure as described in Example 3 to give the title compound as a yellow solid (0.54 g, 40%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2.5 mmol, 1.22 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OC)CBr)C=1SC=CN1 | C16H12Br2FN3O2S
reactant | morpholine-2-carboxylic acid hydrochloride | 3 mmol, 0.5 g | Cl.N1CC(OCC1)C(=O)O
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid | 0.54 g, 40% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1CC(OCC1)C(=O)O)C(=O)OC | C21H20BrFN4O5S
